US05677306
The procedure is carried out as in Example 1 but starting with 1 g of 1-(6-chloro-1-oxo-2-indanyl)imidazole-2-carboxamide, a total of 75 ml of methanol and 15 ml of 12N aqueous hydrochloric acid solution. 0.4 g of 7-chloro-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride is obtained which decomposes without melting above 300° C. [NMR spectrum: (300 MHz; DMSO-d6 ; δ in ppm): 4.12 (s, 2H: --CH2-- in position 10); 7.44 (dd, J=8 and 1 Hz 1H: --H8); 7.66 (d, J=8 Hz, 1H: --H9); 7.95 and 8.25 (2s broad, 1H each: --H of imidazole); 8.05 (d, j=1 Hz, 1H: --H6); 12.97 (unresolved complex, 1H: --CONH--)].

reactant | 1-(6-chloro-1-oxo-2-indanyl)imidazole-2-carboxamide | 1 g | ClC1=CC=C2CC(C(C2=C1)=O)N1C(=NC=C1)C(=O)N | C13H10ClN3O2
reactant | hydrochloric acid | 12N, 15 ml | Cl | ClH
solvent | methanol | 75 ml | CO | CH4O
product | 7-chloro-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.4 g | Cl.ClC=1C=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C1 | InChI=1S/C13H8ClN3O.ClH/c14-8-2-1-7-5-10-11(9(7)6-8)16-13(18)12-15-3-4-17(10)12;/h1-4,6H,5H2,(H,16,18);1H
